US05506256
C) (2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-[1-hydroxy-2-(isopropylsulfinyl)ethyl]pyrrolidine
(2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-[1-hydroxy-2-(isopropylthio)ethyl]pyrrolidine (1.61 g) was subjected to oxidation as in Example 2-A) in dichloromethane using 1.1 equivalent of m-chloroperbenzoic acid to give 1.40 g of the title compound.

reactant | (2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-[1-hydroxy-2-(isopropylthio)ethyl]pyrrolidine | 1.61 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(CSC(C)C)O)CCC1 | C22H32N2O4S
reactant | dichloromethane | 1.1 equivalent | ClCCl | CH2Cl2
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
product | (2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-[1-hydroxy-2-(isopropylsulfinyl)ethyl]pyrrolidine | 1.40 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(CS(=O)C(C)C)O)CCC1 | C22H32N2O5S
